US07812022B2
Step A: {1-[(4-Methylphenyl)sulfonyl]ethyl}formamide
A stirred mixture of dry acetonitrile (500 mL) and dry toluene (500 mL) was cooled to −30° C., followed by the addition of formamide (50.7 g, 1.1 mol), acetaldehyde (37 g, 0.85 mol) and TMSCl (106.4 g, 0.98 mol) at −30° C. under N2 atmosphere. The reaction mixture was stirred at rt for 1 h and warmed to 55° C., then p-toluene sulphonic acid was added and stirred the reaction mixture at this temperature overnight. The reaction mixture was cooled to 0° C. and followed by the addition of 300 mL of tert-butyl ether and stirred for 1 h. The white precipitate formed was filtered off and dried. The crude product was taken into next step without further purification. Yield (crude): 110 g.

reactant | formamide | 1.1 mol, 50.7 g | C(=O)N | CH3NO
reactant | acetaldehyde | 0.85 mol, 37 g | C(C)=O | C2H4O
reactant | TMSCl | 0.98 mol, 106.4 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | p-toluene sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | tert-butyl ether | 300 mL | C(C)(C)(C)OC(C)(C)C | C8H18O
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
product | {1-[(4-Methylphenyl)sulfonyl]ethyl}formamide | CC1=CC=C(C=C1)S(=O)(=O)C(C)NC=O | C10H13NO3S
